US05571825
A slurry of ρ-toluenesulfonic acid monohydrate (1.50 g, 7.89 mmol) and activated 3 Å molecular sieves (300-500 mg) in 7 mL of toluene is stirred for 15 minutes. Methyl thioglycolate (410 mg, 3.86 mmol) is then added followed by 4,4'-bis(dimethyamino)benzhydrol (Aldrich) (950 mg, 3.51 mmol) and stirred for 1 hour. The reaction is diluted with ethyl acetate, washed with saturated aqueous sodium bicarbonate, brine and dried over magnesium sulfate. Chromatography on silica gel, eluting with a 1:4 mixture of ethyl acetate: hexane, provides methyl [[bis-(4-dimethylaminophenyl)methyl]thio]acetate as a greenish yellow solid in 53% yield.

reactant | ρ-toluenesulfonic acid monohydrate | 7.89 mmol, 1.50 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | Methyl thioglycolate | 3.86 mmol, 410 mg | C(CS)(=O)OC | C3H6O2S
reactant | 4,4'-bis(dimethyamino)benzhydrol | 3.51 mmol, 950 mg | CN(C1=CC=C(C(C2=CC=C(C=C2)N(C)C)O)C=C1)C | C17H22N2O
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl [[bis-(4-dimethylaminophenyl)methyl]thio]acetate | 53% yield | CN(C1=CC=C(C=C1)C(SCC(=O)OC)C1=CC=C(C=C1)N(C)C)C | C20H26N2O2S
